US09212168B2
(a) (R)-4-[5-(5-Chloro-4′-{2-[(2S,4S)-4-methoxy-1-((S)-2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-1H-imidazol-4-yl}-2-trifluoromethoxy-biphenyl-4-ylcarbamoyl)-pyridin-2-yl]-3-methyl-piperazine-1-carboxylic acid tert-butyl ester
To a solution of [(S)-1-((2S,4S)-4-methoxy-2-{4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester (100 mg, 0.19 mmol, Preparation 27) and (R)-4-[5-(4-bromo-2-chloro-5-trifluoromethoxy-phenylcarbamoyl)-pyridin-2-yl]-3-methyl-piperazine-1-carboxylic acid tert-butyl ester (110 mg, 0.19 mmol) dissolved in toluene (1.18 mL) and water (0.43 mL) was added potassium carbonate (127 mg, 0.92 mmol). The reaction mixture was sparged under nitrogen for 15 min and Pd(dppf)Cl2CH2Cl2 (13.55 mg, 0.017 mmol) was added and the reaction mixture was sparged with nitrogen and heated at 90° C. overnight, cooled to RT, diluted with EtOAc and washed with water and brine to produce a dark colored solid, which was purified by silica gel chromatography (12 g silica, EtOAc/hexanes 40 to 100%) to produce the title intermediate (35.3 mg, 21% yield) as a yellowish colored solid. (m/z): [M+H]+ calcd for C44H52ClF3N8O8 913.35. found 913.3.

reactant | [(S)-1-((2S,4S)-4-methoxy-2-{4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | 0.19 mmol, 100 mg | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](C[C@@H](C1)OC)C=1NC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C27H39BN4O6
reactant | (R)-4-[5-(4-bromo-2-chloro-5-trifluoromethoxy-phenylcarbamoyl)-pyridin-2-yl]-3-methyl-piperazine-1-carboxylic acid tert-butyl ester | 0.19 mmol, 110 mg | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)C1=NC=C(C=C1)C(NC1=C(C=C(C(=C1)OC(F)(F)F)Br)Cl)=O)C | C23H25BrClF3N4O4
reactant | water | 0.43 mL | O | H2O
reactant | potassium carbonate | 0.92 mmol, 127 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 1.18 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-4-[5-(5-Chloro-4′-{2-[(2S,4S)-4-methoxy-1-((S)-2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-1H-imidazol-4-yl}-2-trifluoromethoxy-biphenyl-4-ylcarbamoyl)-pyridin-2-yl]-3-methyl-piperazine-1-carboxylic acid tert-butyl ester | 35.3 mg, 21% yield | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)C1=NC=C(C=C1)C(NC1=CC(=C(C=C1Cl)C1=CC=C(C=C1)C=1N=C(NC1)[C@H]1N(C[C@H](C1)OC)C([C@H](C(C)C)NC(=O)OC)=O)OC(F)(F)F)=O)C | C44H52ClF3N8O8
